US07488789B2
(1) Synthesis of 3-tert-butyl-1-methyl-6,6-di(4-tert-butyl-phenyl)fulvene
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 1.58 g of powdery potassium hydroxide (28.2 mmol) and 100 ml of dehydrated dimethoxy ethane were added in a nitrogen atmosphere. To the suspension, 2.31 g of 3-tert-butyl-1-methyl-cyclopentadiene (17.0 mmol) was gradually added dropwise at room temperature and stirred under reflux for 1 hr. Thereafter, a solution prepared by dissolving 5.25 g of 4,4′-di-tert-butyl-benzophenone (17.8 mmol) to 40 ml of dehydrated dimethoxyethane was gradually added dropwise and stirred under reflux for 2 days. To the resulting reaction mixture, 50 ml of a hydrochloric acid aqueous solution (1N) was gradually added dropwise in an ice bath and stirred at room temperature for some time. Diethyl ether was added to the mixed solution to separate an organic phase. The organic phase was washed with a saturated sodium bicarbonate aqueous solution, water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give a reddish-brown solid. The solid was purified with a column chromatography using 240 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure, and thereby the aimed compound was obtained in an amount of 2.10 g (5.09 mmol) as a reddish-orange solid (yield: 30%).

reactant | potassium hydroxide | 28.2 mmol, 1.58 g | [OH-].[K+]
reactant | 3-tert-butyl-1-methyl-cyclopentadiene | 17.0 mmol, 2.31 g | C(C)(C)(C)C=1C=C(CC1)C | C10H16
reactant | 4,4′-di-tert-butyl-benzophenone | 17.8 mmol, 5.25 g | C(C)(C)(C)C1=CC=C(C(=O)C2=CC=C(C=C2)C(C)(C)C)C=C1 | C21H26O
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
solvent | dimethoxy ethane | 100 ml | C(OC)COC | C4H10O2
product | 3-tert-butyl-1-methyl-6,6-di(4-tert-butyl-phenyl)fulvene | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C)C | C31H40
